US05028738
A 1N aqueous solution of sodium hydroxide (20 ml; 20 mmoles) was added to 1.64 g (10 mmoles) of phenylpyruvic acid to form a solution. Then, 1.19 g (10 mmoles) of propargyl bromide was added, and the mixture was stirred at room temperature for 13 hours. The reaction mixture was acidified with 1N hydrochloric acid and extracted with three 50 ml portions of ether. The ether layers were dried over magnesium sulfate, and the ether was evaporated under reduced pressure to give a pale yellowish white solid. The NMR spectral analysis of this product led to the determination that nearly pure 2-oxo-3-phenyl-5-hexynoic acid (1.88 g; yield 93 %).

reactant | sodium hydroxide | 20 mmoles, 20 ml | [OH-].[Na+]
reactant | phenylpyruvic acid | 10 mmoles, 1.64 g | C1(=CC=CC=C1)CC(C(=O)O)=O | C9H8O3
reactant | propargyl bromide | 10 mmoles, 1.19 g | C(C#C)Br | C3H3Br
reactant | hydrochloric acid | 1N | Cl | ClH
product | 2-oxo-3-phenyl-5-hexynoic acid | 1.88 g, yield 93 % | O=C(C(=O)O)C(CC#C)C1=CC=CC=C1 | C12H10O3
